US04482560
16.0 Grams of 4-hydroxy-4-phenylpiperidine, 24 g of 1-chloro-3-bromopropane and 15 g of triethylamine were mixed with 100 ml of dimethylformamide and stirred at 50°-60° C. for 1 hour. The reaction mixture was poured into 200 ml of saturated sodium chloride aqueous solution and the organic layer was extracted with chloroform, then the chloroform layer was washed with water, dried and the chloroform was removed by distillation. The residue thus obtained was purified by a silica-gel column chromatography (to obtain only the main product at the upper-most portion in the column). 14.3 Grams of 1-chloro-3-(4-hydroxy-4-phenyl-1-piperidyl)propane was obtained as in the form of colorless oily substance. Then this oily substance was distilled under a reduced pressure to obtain a fraction of distillate. The fraction of distillate was made as in the form of hydrochloride and recrystallized from ethanol to obtain 1-chloro-3-(4-hydroxy-4-phenyl-1-piperidyl)propane monohydrochloride having the melting point of 192°-195° C. as in the form of colorless needle-like crystals.

reactant | 4-hydroxy-4-phenylpiperidine | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | 1-chloro-3-bromopropane | 24 g | ClCCCBr | C3H6BrCl
reactant | triethylamine | 15 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-chloro-3-(4-hydroxy-4-phenyl-1-piperidyl)propane | ClCCCN1CCC(CC1)(C1=CC=CC=C1)O | C14H20ClNO
